US07176306B2
N-(2,4-Dichloro-6-methylpyridin-3-yl)-2-[4-(2-hydroxyethyl)piperazin-1-yl]acetamide (58.0 g, 167.0 mmol) and 18-crown-6 (4.41 g, 16.7 mmol) were dissolved in dimethyl sulfoxide (580 mL), and sodium thiomethoxide powder (46.8 g, 667.7 mmol) was added to the solution under stirring and under cooling with ice, followed by stirring for 2.5 hours at an inner temperature of 65–75° C. The reaction mixture was allowed to cool to room temperature, and water was added to the mixture under cooling with ice, followed by extraction with chloroform. The aqueous layer was extracted with chloroform. The combined organic layer was washed with saturated brine and concentrated under reduced pressure. The residue was recrystallized from isopropanol and diisopropyl ether, to thereby yield 43.83 g of 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide (yield: 71%) as colorless crystals.

reactant | N-(2,4-Dichloro-6-methylpyridin-3-yl)-2-[4-(2-hydroxyethyl)piperazin-1-yl]acetamide | 167.0 mmol, 58.0 g | ClC1=NC(=CC(=C1NC(CN1CCN(CC1)CCO)=O)Cl)C | C14H20Cl2N4O2
reactant | 18-crown-6 | 16.7 mmol, 4.41 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | sodium thiomethoxide | 667.7 mmol, 46.8 g | C[S-].[Na+]
reactant | water | O | H2O
reactant | dimethyl sulfoxide | 580 mL | CS(=O)C | C2H6OS
product | 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide | yield 43.83 g, yield: 71% | OCCN1CCN(CC1)CC(=O)NC=1C(=NC(=CC1SC)C)SC | C16H26N4O2S2
